US05073571
11-bromoundecanoic acid (2 g, 17.5 mmol) was added to a solution of potassium hydroxide (1.7 g, 30.2 mmol) in 1-butanol (20 mL) and the solution was stirred at 40° C. for 5 hrs. After cooling, the reaction mixture was extracted with ethyl acetate and water at pH =2. The organic phase was then washed with saturated sodium chloride, dried over sodium sulfate, and the solvent was removed under reduced pressure. The product was purified over silica column chromatography in 2-10% ethyl acetate/hexane/0.2% formic acid to yield 11-(1-butoxy)undecanoic acid (336 mg, 17%). mp 29-30.5° C.; 1H NMR (300 MHz, CDC13) δ 0.84-0.96 (t, 3H, J=7.3, CH3), 1.18-1.46 (bm, 14H, methylene envelope), 1.47-1.68 (bm, 6H, CH2CH2OCH2CH2, CH2CH2COOH), 2.31 (t, 2H, CH2COOH), 3.32-3.46 (bm, 4H, CH2OCH2), 11.02 (br, 1H, COOH); 13C NMR (75.4 MHz, CDC13 δ 14.02, 19.43, 24.74, 26.21, 29.11, 29.28, 29.35, 29.56, 29.64, 29.76, 31.85, 34.14, 70.63, 70.94, 179.82; m/z 259 (M+H).

reactant | 11-bromoundecanoic acid | 17.5 mmol, 2 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | potassium hydroxide | 30.2 mmol, 1.7 g | [OH-].[K+]
solvent | 1-butanol | 20 mL | C(CCC)O | C4H10O
product | 11-(1-butoxy)undecanoic acid | 336 mg, 17% | C(CCC)OCCCCCCCCCCC(=O)O | C15H30O3
